US06723719B1
4-(2-Phenylethenyl)pyridazine
Zinc chloride (820 mg, 6 mmol) was added to a stirred mixture of benzaldehyde (6.11 ml, 60 mmol) and 4-methylpyridazine (2.83 g, 30 mmol) and the resulting mixture heated for 20 hours at 150° C. The cool reaction mixture was partitioned between dichloromethane (40 ml) and 2M aqueous sodium hydroxide solution (20 ml), then the organic phase separated, combined with a dichloromethane extract (80 ml) of the aqueous phase, dried (Na2SO4) and evaporated under reduced pressure. The residual pale brown oil was purified by column chromatography on silica gel, using dichloromethane:methanol (99:1) as eluant, to give the title compound (3.65 g) as a pale brown solid. Found: C, 78.95; H, 5.52; N, 15.39. C12H10N2 requires C, 79.10; H, 5.53; N, 15.37%. δ (CDCl3): 6.96 (1H, d), 7.45 (5H, m), 7.55 (2H, m), 9.12 (1H, d), 9.30 (1H, s). LRMS: m/z 183 (M+1)+.

reactant | benzaldehyde | 60 mmol, 6.11 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-methylpyridazine | 30 mmol, 2.83 g | CC1=CN=NC=C1 | C5H6N2
catalyst | Zinc chloride | 6 mmol, 820 mg | [Cl-].[Zn+2].[Cl-]
product | 4-(2-Phenylethenyl)pyridazine | 3.65 g | C1(=CC=CC=C1)C=CC1=CN=NC=C1 | C12H10N2
